Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Demerol / Cocaine / Compazine / Augmentin / Ergotamine / Bactrim 
/ Shellfish / Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms ___ is a ___ w/hx of hypothyroidism, HLD, and ?vasculitis 
who initially p/w DOE, transferred from ___ after being found to 
have b/l L>R pleural effusions and pericardial effusion  
 Pt states has felt generally unwell for the past 1wk, markedly 
fatigued. +Night sweats and chills. No overt SOB, though patient 
says her breathing has felt "different, there is something 
happening in my chest." +Non productive cough. She also notes 
intermittent R chest and back discomfort, no association with 
movement/exertion. She has been sleeping upright for comfort.  
 The pt was feeling particularly unwell today, presented to 
urgent care. She was noted to be tachycardic. Labs were notable 
for neg trop/BNP and D-dimer 5722. Flu swab was Neg. Pt was HDS 
and in NAD. She was noted to desat to 88% when ambulating but is 
NAD at rest. Initial CXR w/evidence of a left pleural effusion. 
Pt expressed Rt sided pleuritic CP, investigated further with 
EKG demonstrating TWI aVL/I as well as V2 and TWF laterally with 
low voltage in the inferior leads, no obvious alternans and no 
STEMI criteria. CTA was obtained, w/pericardial effusion 
w/evidence of R heart strain & ?tamponade, L>R pleural 
effusions, no PE. Pt was given IVF, transferred from ___ to ___ 
for further eval. No recent travel, Pt w/o hx of breast cancer. 
Up to date on mammograms. No recent travel. Sigmodioscopy neg in 
___. Neg thyroid scan.  
 In the ED, initial vitals were: T98.6 105 153/75 18 98% RA  
 - Exam notable for: Slightly anxious, circumferential in 
speech. Decreased bibasilar lung sounds. Tachycardic, regular 
rhythm, soft systolic ejection murmur best heard at ___, no 
rubs. No elevated JVP. Abd benign. Pretibial edema L>R. WWP.  
 - Labs notable for: WBC 7.9, Hb 13.3, Plt 252, BNP 121, Na 135, 
Cr 0.7, Trop neg, D-dimer 5722, Flu rapid Ag neg  
 - Imaging was notable for: CXR w/Lt pleural effusion,  
 CT-A w/Small to moderate amount of pericardial the fusion with 
evidence of right heart strain. Tamponade physiology is 
difficult to evaluate on current modality. Further evaluation 
with echocardiogram and or consultation with interventional 
cardiology is recommended for pericardiocentesis.  
 -No evidence of pulmonary embolism.  
 - Patient was given: Klonopin 1mg, Montelukast 10mg  
 Upon arrival to the floor, patient reports that Sx started 1.5 
wks prior, developed chest soreness, achiness. didn't feel like 
the flu but muscle aches. diff breathing and pain w/breathing. 
felt more uncomfortable lying flat. DOE but no SOB at rest. pt's 
Sx had been steadily improving over the week after last weekend, 
but then this weekend Sx had worsened again. +C/NS, didn't check 
for fevers. Dec appetite/PO intake. No sick contacts. +flu 
vaccine this yr. No abd pain, no n/v/d/c. no rashes. no 
dysuria/urinary changes. weak, rare dry cough. Had migraine HA 
in ED, better with midron. No recent med changes, except for ___ 
med & mild change in thyroid meds.  
 
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI
 
Past Medical History:
 PAST MEDICAL HISTORY:  
 ASTHMA  
 CERVICAL SPONDYLOSIS  
 HYPERTRIGLYCERIDEMIA  
 MANIERE'S DISEASE  
 MIGRAINE HEADACHES  
 OLECRANON BURSITIS,LEFT  
 OSTEOPENIA,SPINE  
 SINUSITIS  
 ? VASCULITIS  
 FASTING HYPERGLYCEMIA  
 OSTEOPENIA  
 THYROID NODULE  
 HYPOTHYROIDISM  
 H/O TAH/BSO  
 
 PAST SURGICAL HISTORY:  
 s/p L oophorectomy for cysts  
 s/p total hysterectomy ___  
 GYN HISTORY:  
 no h/o abnl paps  
 s/p L oophorectomy for cysts  
 s/p total hysterectomy ___  
 ___ due in ___.  
 h/o fibroadenomas  

 
Social History:
___
Family History:
 father: CAD, htn, sarcoma, testicular ca, aneurysms  
 mother: lung cancer (smoker)  
 one brother died of ___  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 Vital Signs: 97.9, 147/89, 98, 18, 96 RA, 89.9kg  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
NCAT  
 Neck: Supple. No JVD.  
 CV: RRR. Normal S1+S2, no murmurs, rubs, gallops. Pulsus <5.  
 Lungs: Decreased bibasilar breath sounds  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation  
 Skin: no rashes observed.  

Discharge exam:
VS: 99 105/68 93 16 92-94% RA resting and ambulating
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, JVP 12cm
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, decreased breath sounds 
bilaterally
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 
 

 
Pertinent Results:
Admission:

___ 04:15PM   NEUTS-74.4* LYMPHS-12.0* MONOS-10.8 EOS-1.9 
BASOS-0.5 IM ___ AbsNeut-5.85# AbsLymp-0.94* AbsMono-0.85* 
AbsEos-0.15 AbsBaso-0.04
___ 04:15PM   WBC-7.9 RBC-4.50 HGB-13.3 HCT-39.7 MCV-88 
MCH-29.6 MCHC-33.5 RDW-14.0 RDWSD-45.0
___ 04:15PM   CRP-109.6*
___ 04:15PM   FREE T4-1.1
___ 04:15PM   TSH-1.9
___ 04:15PM   D-DIMER-5722*
___ 04:15PM   ALBUMIN-4.3 CALCIUM-8.9 PHOSPHATE-3.6 
MAGNESIUM-2.4
___ 04:15PM   CK-MB-<1 proBNP-121
___ 04:15PM   cTropnT-<0.01
___ 04:15PM   ALT(SGPT)-13 AST(SGOT)-17 LD(LDH)-335* 
CK(CPK)-64 ALK PHOS-59 TOT BILI-0.7
___ 04:15PM   GLUCOSE-131* UREA N-16 CREAT-0.7 SODIUM-135 
POTASSIUM-4.0 CHLORIDE-98 TOTAL CO2-23 ANION GAP-18

IMAGING & STUDIES:  
 - CXR ___  
 --Small left pleural effusion with overlying atelectasis; 
underlying left base consolidation is not excluded.  
 - CT-A Chest ___  
 --Moderate pericardial effusion with straightening of the 
interventricular septum raising concern for underlying right 
heart strain which could be further assessed for on 
echocardiogram. Tamponade physiology is difficult to evaluate on 
current modality. Further evaluation with echocardiogram and or 
consultation with interventional cardiology is recommended for 
pericardiocentesis.  
 --Small bilateral pleural effusions, left greater than right. 
Subtle perihilar ground-glass opacities could relate to 
respiratory motion versus mild pulmonary edema.  
 --No evidence of pulmonary embolism.  
 - ECG ___  
 --HR 104, SR, NA, TWI aVL/V1-V2, diffuse TW flattening, lower 
end voltage, no priors to compare  

TTE ___

The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). The estimated cardiac index is high 
(>4.0L/min/m2). Right ventricular chamber size and free wall 
motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. The pulmonary artery systolic 
pressure could not be determined. There is a small 
circumferential pericardial effusion, most promient (1cm) 
inferolateral to the left ventricle and anterior to the right 
ventricular free wall and right atrium. No right atrial or right 
ventricular diastolic collapse is seen. 

IMPRESSION: Small circumferential pericardial effusion without 
echocardiographic evidence for tampmonade physiology. Mild 
symmetric left ventricular hypertrophy with preserved regional 
and global biventricular systolic function. No valvular 
pathology or pathologic flow identified.  

___ CXR
IMPRESSION:  
  
Compared to chest radiographs since ___ most recently ___. 
  
Moderate left pleural effusion and moderately severe left lower 
lobe 
atelectasis have worsened since ___.  Pneumonia left lower 
lobe would be difficult to exclude under the circumstances.  No 
change in diameter of the top-normal cardiac silhouette or 
distension of mediastinal veins to suggest either cardiac 
tamponade or substantial increase in pericardial effusion.  
Right lung and left upper lung are clear.  No appreciable right 
pleural effusion.  No pulmonary vascular abnormality. 

Discharge labs:

___ 07:00AM BLOOD WBC-6.3 RBC-4.29 Hgb-12.5 Hct-38.3 MCV-89 
MCH-29.1 MCHC-32.6 RDW-14.4 RDWSD-46.4* Plt ___
___ 07:00AM BLOOD Glucose-123* UreaN-13 Creat-0.7 Na-141 
K-3.8 Cl-104 HCO3-23 AnGap-18
___ 07:00AM BLOOD Calcium-8.8 Phos-4.0 Mg-2.3
___ 03:09AM BLOOD HIV Ab-Negative
___ 04:15PM BLOOD ___ * Titer-1:40 CRP-109.6*
 
Brief Hospital Course:
Ms ___ is a ___ w/hx of hypothyroidism, HLD, and possible 
prior ANCA vasculitis who initially presented with dyspnea with 
exertion, transferred from urgent care after being found to have 
bilateral L>R pleural effusions and pericardial effusion. 
 
# Pericardial Effusion  
# DOE/Pleural Effusion  
Presented with dyspnea associated with non-positional chest 
aching during respiration. Also with night sweat/chills, fatigue 
over the last week, although no URI symptoms. Labs with elevated 
CRP, D-dimer, and CT-A w/moderate pericardial effusion. Mildly 
low voltage on EKG, though w/o electrical alternans. 
Hemodynamically stable with no clinical signs of tamponade. TTE 
shows small pericaridial effusion without tamponade physiology. 
No history of malignancy, no lesions seen on CT-A. Viral 
pericarditis is the most likely etiology. Given possible 
vasculitis history, she was seen by the rheumatology team, who 
agreed that a viral process is most likely given that she has no 
symptoms consistent with an active
vasculitis or connective tissue disease. No active urine 
sediment and normal urine protein: creatinine. ___ borderline 
high (1:40), which can also be elevated during a viral 
infection. Hypothyroidism unlikely to be contributing with 
normal TSH, FT4. Trops neg x2. Flu, HIV neg. During the 
hospitalization she required some supplemental oxygen of ___ L 
at night for mild hypoxemia likely due to pleural effusions and 
atelectasis. This improved with incentive spirometry and likely 
improvement in the pleural effusions. On discharge, her resting 
and ambulatory O2 saturations were 92-94% on room air. Patient 
felt significantly better at time of discharge without 
significant intervention. 

# Fever
Fever to 101.1 on ___ with increasing O2 requirement. CXR with 
worsening pleural effusion with hard to exclude PNA. No further 
fevers since. Repeat UA bland. Urine and blood cultures with no 
growth. Likely due to viral process. No antibiotics were given. 
 
CHRONIC ISSUES  
==============  
 # Hypothyroidism: c/w home levothyroxine  
 # Psych: c/w home Klonopin  
 # HLD: c/w home statin  
 # Asthma: c/w home singulair, cetirizine  
 # MEDREC: c/w home VitD, MVI  

====================
Transitional issues:
====================
- Please repeat oxygen saturation at upcoming visits.
- Recommend repeat urinalysis with protein to creatinine ratio 
if symptoms persist
- Recommend CT chest to evaluate for resolution of pleural 
effusion and pericardial effusion. If persistent or worsening, 
consider a diagnostic and therapeutic paracentesis.
- Updated cancer screening and malignancy workup is deferred to 
the primary outpatient providers.
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN sob 
2. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID:PRN 
3. ClonazePAM 0.5 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. Montelukast 10 mg PO DAILY 
6. Tirosint (levothyroxine) 39 mcg oral 6X/WEEK 
7. Tirosint (levothyroxine) 26 mcg oral 1X/WEEK 
8. Cetirizine 10 mg PO DAILY 
9. Vitamin D 1000 UNIT PO DAILY 
10. Ciprofloxacin HCl 250 mg PO BID:PRN PRN 
11. GuaiFENesin ER 600 mg PO Q12H 
12. Multivitamins W/minerals 1 TAB PO DAILY 
13. Fish Oil (Omega 3) 1000 mg PO DAILY 
14. isometh-dichloral-acetaminophn 65-100-325 mg oral Q6H:PRN 
15. ClonazePAM 1 mg PO DAILY 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q6H:PRN sob  
2.  Cetirizine 10 mg PO DAILY  
3.  Ciprofloxacin HCl 250 mg PO BID:PRN PRN  
4.  ClonazePAM 0.5 mg PO DAILY  
5.  ClonazePAM 1 mg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO DAILY  
7.  GuaiFENesin ER 600 mg PO Q12H  
8.  isometh-dichloral-acetaminophn 65-100-325 mg oral Q6H:PRN  
9.  Montelukast 10 mg PO DAILY  
10.  Multivitamins W/minerals 1 TAB PO DAILY  
11.  Simvastatin 20 mg PO QPM  
12.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID:PRN wheeze  
13.  Tirosint (levothyroxine) 26 mcg oral 1X/WEEK (MO)  
14.  Tirosint (levothyroxine) 39 mcg oral 6X/WEEK  
15.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Pleural effusion
Pericardial effusion

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You were admitted 
because you had fluid around your heart and around your lungs. 
This was probably a result of "serositis" which is an 
inflammation of the lining around the heart and lungs. As we 
discussed, the most likely cause of this is a viral infection 
and it will probably improve with time. You were also evaluated 
by the rheumatology team while you were here, and they agree 
that this is most likely due to a viral infection. If your 
breathing and other symptoms do not improve over the next few 
weeks, it is a good idea to return to your primary care provider 
for more diagnostic workup.

Please follow up with your PCP as scheduled.

Your ___ team 
 
Followup Instructions:
___